US07456164B2
4-[4-(3-azetidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile
A mixture of 4-[4-(3-chloro-propoxy)-phenyl]-tetrahydropyran-4-carbonitrile and 4-[4-(3-bromo-propoxy)-phenyl]-tetrahydropyran-4-carbonitrile (7.5 g, 27 mmol), K2CO3 (9.6 g, 70 mmol) and azetidine hydrochloride (4.0 g, 43 mmol) in acetonitrile (80 mL) was heated at 40° C. for 18 hours. The mixture was concentrated in vacuo then partitioned between water (150 mL) and ethyl acetate (150 mL). The organic layer was extracted with 2M HCl solution (2×100 mL) and the combined acid layers basified with 40% potassium hydroxide solution, then extracted with DCM (2×150 mL). The DCM layers were combined, dried over sodium sulphate, filtered and concentrated under reduced pressure to give the title compound (1.1 g, 57%) as a clear, viscous oil. 1H NMR (400 MHz, DMSO) δ 1.80 (quintet, 2H), 2.00-2.14 (m, 6H), 2.58 (t, 2H), 3.20 (t, 4H), 3.88 (m, 2H), 4.00-4.11 (m, 4H), 6.90 (d, 2H), 7.38 (d, 2H). LRMS (APCI+) m/z 301 (MH)+.

reactant | 4-[4-(3-chloro-propoxy)-phenyl]-tetrahydropyran-4-carbonitrile | ClCCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C15H18ClNO2
reactant | 4-[4-(3-bromo-propoxy)-phenyl]-tetrahydropyran-4-carbonitrile | 27 mmol, 7.5 g | BrCCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C15H18BrNO2
reactant | K2CO3 | 70 mmol, 9.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | azetidine hydrochloride | 43 mmol, 4.0 g | Cl.N1CCC1
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 4-[4-(3-azetidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile | 1.1 g, 57% | N1(CCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C18H24N2O2
